US05068325
a) 2-Acetylamino-6-benzyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-amino-6-benzyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine (see Example 4 in GB-A-1321509, melting point of the dihydrochloride 232° C.) and 1.2 equivalents of acetic anhydride by refluxing for 2 hours. Yield: 62% of theory, Melting point: 129°-130° C.

reactant | 2-amino-6-benzyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC1=CC=CC=C1 | C14H17N3S
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | acetic anhydride | 1.2 equivalents | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylamino-6-benzyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 62% | C(C)(=O)NC=1SC=2CCN(CCC2N1)CC1=CC=CC=C1 | C16H19N3OS
